US06953806B2
To a solution of 3.35 g (11.20 mmol) trans-{2-[4-(3-hydroxy-propyl)-cyclohexyl]-ethyl}-methyl-carbamic acid tert-butyl ester and 1.54 ml (13.4 mmol) of methanesulfonyl chloride in 35 ml dichloromethane was added under ice-cooling within 5 minutes a solution of 1.87 ml (13.4 mmol) triethylamine in 5 ml of dichloromethane. The reaction mixture was then stirred for 1 hour at room temperature. It was subsequently partitioned between ether, water and 1N hydrogen chloride solution. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure giving 4.06 g (96.1%) almost pure trans-methanesulfonic acid 3-{4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexyl}-propyl ester as colorless viscous oil, MS: 395 (MNH4+).

reactant | trans-{2-[4-(3-hydroxy-propyl)-cyclohexyl]-ethyl}-methyl-carbamic acid tert-butyl ester | 11.20 mmol, 3.35 g | C(C)(C)(C)OC(N(C)CC[C@@H]1CC[C@H](CC1)CCCO)=O | C17H33NO3
reactant | methanesulfonyl chloride | 13.4 mmol, 1.54 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 13.4 mmol, 1.87 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | trans-methanesulfonic acid 3-{4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexyl}-propyl ester | C(C)(C)(C)OC(=O)N(CC[C@@H]1CC[C@H](CC1)CCCOS(=O)(=O)C)C | C18H35NO5S
